US06093732
7-(Acetylamino)-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinolinecarboxamide
A solution of 100 mg of 7-amino-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinolinecarboxamide in 1 mL of anhydrous pyridine is treated with 0.032 mL of acetic anhydride. After 24 h, an additional 0.005 mL of acetic anhydride is added and the mixture is stirred for an additonal 48 h. The mixture is diluted with 2 mL of distilled water and the precipitate is collected by filtration. It is washed with two 1 mL portions of distilled water and dried in a stream of air. It is dried at 20 torr/75°C./16 h. The product is obtained as 78 mg of a tan solid.

reactant | 7-amino-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinolinecarboxamide | 100 mg | NC1=CC=C2C(=C(C=NC2=C1)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H14ClN3O2
reactant | acetic anhydride | 0.032 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.005 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 2 mL | O | H2O
product | 7-(Acetylamino)-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinolinecarboxamide | 78 mg | C(C)(=O)NC1=CC=C2C(=C(C=NC2=C1)C(=O)NCC1=CC=C(C=C1)Cl)O | C19H16ClN3O3
